US05576322
250 μl of dimethyl sulfoxide was slowly dropped into a mixture comprising 150 μl of oxalyl chloride and 15 ml of methylene chloride which had been preliminarily cooled in a dry ice/acetone bath. After 10 minutes, a solution of 500 mg of 2-(2-hydroxyethyl)oxy-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline in 1 ml of dimethyl sulfoxide was dropped into the mixture prepared above at the same temperature and after 10 minutes, 1.4 ml of N,N-diisopropylethylamine was dropped thereinto at the same temperature. The obtained mixture was stirred at the same temperature for 10 minutes and brought to room temperature. After 20 minutes, 600 mg of ethoxycarbonylmethylenetriphenylphosphorane was added in a crystalline state to the resulting mixture to conduct a reaction for 30 minutes, followed by the addition of water. The obtained mixture was extracted with ethyl acetate and the extract was purified by silica gel column chromatography using an ethyl acetate/benzene mixture to give 400 mg of 2-(3-ethoxycarbonyl-2-propenyl)oxy-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline (cis/trans mixture).

reactant | oxalyl chloride | 150 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(2-hydroxyethyl)oxy-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline | 500 mg | OCCOC1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)C#N | C19H16N4O4
reactant | N,N-diisopropylethylamine | 1.4 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethoxycarbonylmethylenetriphenylphosphorane | 600 mg | C(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 250 μl | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-ethoxycarbonyl-2-propenyl)oxy-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline | 400 mg | C(C)OC(=O)C=CCOC1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)C#N | C23H20N4O5
